US06060604
Ten mmole of 1,8 diaminooctane is dissolved in 50 ml of pyridine. Five mmole of Ac2O is added to the solution dropwise at 10° C. The organic solvent is then evaporated. Using column chromatography, N-monoacetoamide-1,8-diaminooctane subsequently is separated out. The N-monoacetoamide-1,8-diaminooctane is dissolved in 25 ml 1,2-dichloroethane. To this solution, 6 mmole of LiAlH4 is added. The solution is then stirred under nitrogen gas at room temperature for 1 day. Subsequently, the solution is diluted with 100 ml of ethyl acetate. The resulting solution is washed with 20 ml of saturated sodium chloride solution. The solution is dried over MgSO4 and evaporated to produce a residue of N-monoethyl-1,8-diaminooctane. The obtained N-monoethyl-1,8-diaminooctane is dissolved in 80 ml of 1,2-dichloroethane containing about 15 mmole of 2-methyl-5-nitro-imidazolyl-1-yl-acetaldehyde. This reaction mixture is stirred for 30 minutes and then acidified with 15 mmole of acetic acid. Eighteen mmole of sodium triacetoxyborohydride is added as a reducing agent and the solution is stirred for 48 hours at room temperature. The resulting mixture is diluted with 80 ml of ethyl acetate, and the mixture solution is washed with 100 ml of saturated aqueous NaHCO3 and 50 ml of water. The organic layer is dried over anhydrous MgSO4, and the solvent is evaporated to leave residual oil which solidified at 4° C. for 2 days. The obtained solid is recrystallized from ethyl acetate/hexane to give N, N, N'-tri[2'-(2-methyl-5-nitro-1-imidazolyl) ethyl]-N'-ethyl-1,8-octanediamine.

reactant | 1,8 diaminooctane | Ten mmole | NCCCCCCCCN | C8H20N2
reactant | Ac2O | Five mmole | CC(=O)OC(=O)C | C4H6O3
reactant | LiAlH4 | 6 mmole | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-monoethyl-1,8-diaminooctane | C(C)NCCCCCCCCN | C10H24N2
